US07741341B2
(i) 2-(2-Trichloromethyl-1H-benzoimidazole-5-sulfonyl)-ethanol
500 mg (2.31 mmol) 3,4-diamino-benzene-sulfonylethan-2-ol were dissolved in 10 mL concentrated acetic acid. 0.4 mL (1.4 equiv.) methyl-2,2,2-trichloroacetimidate were added slowly and the resulting mixture was stirred at room temperature for 4 h. The mixture was diluted with 100 mL toluene and the solvent was removed under reduced pressure. The residue was rinsed with toluene, filtered and dried under vacuo to give a brown crystalline solid pure enough for all further reactions. Yield: 680 mg MS (ES+): m/e=345, chloro pattern.

reactant | 3,4-diamino-benzene-sulfonylethan-2-ol | 2.31 mmol, 500 mg | NC=1C=C(C=CC1N)S(=O)(=O)CCO | C8H12N2O3S
reactant | methyl-2,2,2-trichloroacetimidate | 0.4 mL, 1.4 equiv. | COC(C(Cl)(Cl)Cl)=N | C3H4Cl3NO
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(2-Trichloromethyl-1H-benzoimidazole-5-sulfonyl)-ethanol | ClC(C1=NC2=C(N1)C=CC(=C2)S(=O)(=O)CCO)(Cl)Cl | C10H9Cl3N2O3S
